US04258185
A solution of 7 g of 4-oxo-4-(1-methyl-2-oxoindolin-5-yl)butanoic acid and 3 ml of hydrazine hydrate in 70 ml of dimethylformamide was heated on a water bath for 4 hours. The precipitated crystals were filtered off and recrystallized from dimethylformamide to give 4.0 g of 5-(3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methylindolin-2-one as pale yellow prisms, melting at 261°-264° C.

reactant | 4-oxo-4-(1-methyl-2-oxoindolin-5-yl)butanoic acid | 7 g | O=C(CCC(=O)O)C=1C=C2CC(N(C2=CC1)C)=O | C13H13NO4
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 5-(3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methylindolin-2-one | 4.0 g | O=C1NN=C(CC1)C=1C=C2CC(N(C2=CC1)C)=O | C13H13N3O2
